US09062070B2
Step D: (3S,9aS)-8-benzyl 2-tert-butyl 3-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)tetrahydro-1H-pyrazino[1,2-a]pyrazine-2,8(9H,9aH)-dicarboxylate
A mixture of (9aR)-benzyl 8-allyl-7-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate (0.98 g, 2.12 mmol), 1,3-dimethylpyrimidine-2,4,6(1H,3H,5H)-trione (0.995 g, 6.37 mmol) and tetrakis(triphenylphosphine)palladium (0) (123 mg, 0.106 mmol) in methylene chloride (10 mL) was heated at 35° C. for 4 h. After cooling to rt, di-tert-butyl dicarbonate (556 mg, 2.55 mmol) and triethylamine (1194 μl, 8.49 mmol) was added and the resulting solution was stirred at rt overnight. After concentration, the residue was purified and resolved by MPLC on a Biotage system using 20-100% EtOAc/hexane to give the title compound (less polar). LC/MS: (M+1)+: 522.12; and the corresponding (3R,9aS) isomer of the title compound (more polar). LC/MS: (M+1)+: 522.12.

reactant | (9aR)-benzyl 8-allyl-7-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)hexahydro-1H-pyrazino[1,2-a]pyrazine-2(6H)-carboxylate | 2.12 mmol, 0.98 g | C(C=C)N1C[C@H]2N(CCN(C2)C(=O)OCC2=CC=CC=C2)CC1C=1C(=C2COC(C2=CC1)=O)C | C27H31N3O4
reactant | 1,3-dimethylpyrimidine-2,4,6(1H,3H,5H)-trione | 6.37 mmol, 0.995 g | CN1C(N(C(CC1=O)=O)C)=O | C6H8N2O3
reactant | di-tert-butyl dicarbonate | 2.55 mmol, 556 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 8.49 mmol, 1194 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 0.106 mmol, 123 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (3S,9aS)-8-benzyl 2-tert-butyl 3-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)tetrahydro-1H-pyrazino[1,2-a]pyrazine-2,8(9H,9aH)-dicarboxylate | CC1=C2COC(C2=CC=C1[C@@H]1N(C[C@H]2N(C1)CCN(C2)C(=O)OCC2=CC=CC=C2)C(=O)OC(C)(C)C)=O | C29H35N3O6
